US07419984B2
4-{4-[2-Amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin4-ylamino]-phenyl}-butyric acid
A mixture of 4-{4-[2-amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-4-ylamino]-phenyl}-butyric acid ethyl ester (350 mg, 0.71 mmol), sodium hydroxide (150 mg, 3.8 mmol) and ethanol (5 ml) was stirred for 18 hours. Ethyl acetate (100 ml), saturated aqueous sodium chloride solution (100 ml) and concentrated hydrochloric acid (1 ml) were added and the mixture was stirred for 10 minutes. The organic layer was concentrated under reduced pressure. The residual solid was treated with water (25 ml) and stirred vigorously. Suction filtration afforded the title compound (200 mg 61% yield) as a white powder. 1H NMR (DMSO-d6) δ 1.38 (m, 3H, CH3), 1.83 (m, 2H, CH2), 2.23 (m, 2H, CH2), 2.61 (m, 2H, CH2), 4.17 (m, 2H, CH2), 6.60 (s, 1H, Ar), 7.20-7.29 (m, 3H, Ar), 7.61-7.71 (m, 4H, Ar), 10.76 (s, 1H, NH), 12.48 (s, 1H).

reactant | 4-{4-[2-amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-4-ylamino]-phenyl}-butyric acid ethyl ester | 0.71 mmol, 350 mg | C(C)OC(CCCC1=CC=C(C=C1)NC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)OCC)N)=O | C24H27ClN4O3
reactant | sodium hydroxide | 3.8 mmol, 150 mg | [OH-].[Na+]
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-{4-[2-Amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin4-ylamino]-phenyl}-butyric acid | 200 mg, 61% yield | NC1=NC(=CC(=N1)NC1=CC=C(C=C1)CCCC(=O)O)C1=C(C=CC(=C1)Cl)OCC | C22H23ClN4O3
